US07863291B2
Step A: N-(3-Bromobenzyl)-2,2-diethoxyacetimidamide
(3-Bromophenyl)methanamine hydrochloride (3.62 g, 15.64 mmol) and sodium methoxide (3.58 mL, 15.64 mmol) were added to a solution of methyl 2,2-diethoxyacetimidate (5.042 g, 31.3 mmol) in methanol (15 mL). The cloudy mixture was heated at 70 C for 1.5 h and the resulting yellow mixture was concentrated. The residue was purified by silica gel chromatography with 100% ethyl acetate. The desired fractions were concentrated to give a yellow viscous oil (2.5 g, 51%). LCMS:R.T.=2.11; [M+2]+=317.06.

reactant | (3-Bromophenyl)methanamine hydrochloride | 15.64 mmol, 3.62 g | Cl.BrC=1C=C(C=CC1)CN
reactant | sodium methoxide | 15.64 mmol, 3.58 mL | C[O-].[Na+]
reactant | methyl 2,2-diethoxyacetimidate | 31.3 mmol, 5.042 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
solvent | methanol | 15 mL | CO | CH4O
product | N-(3-Bromobenzyl)-2,2-diethoxyacetimidamide | 2.5 g, 51% | BrC=1C=C(CNC(C(OCC)OCC)=N)C=CC1 | C13H19BrN2O2
